2197-04-19 07:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CORDIS/INTRODUCER - START [**2197-4-18**] 02:11 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Fentanyl - [**2197-4-18**] 09:32 PM
   Midazolam (Versed) - [**2197-4-18**] 09:33 PM
   Diazepam (Valium) - [**2197-4-18**] 11:13 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-4-19**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.3
C (97.3
   HR: 93 (93 - 127) bpm
   BP: 98/66(74) {94/55(64) - 126/105(109)} mmHg
   RR: 23 (11 - 28) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
           Total In:
                                                                  2,886 mL
                                                                    326 mL
   PO:
           TF:
   IVF:
                                                                  1,537 mL
                                                                    124 mL
   Blood products:
                                                                    349 mL
                                                                    202 mL
   Total out:
                                                                  1,580 mL
                                                                  1,420 mL
   Urine:
                                                                  1,580 mL
                                                                  1,420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,306 mL
                                                                 -1,094 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   General: NAD, coughing
   HEENT: Pale conjunctiva, no scleral icterus. Slightly dry MM. Poor
   dentition. No oral lesions noted.
   Neck: Supple. Flat JVP.
   Lungs: Clear, no wheezes/rhonchi/rales.
   Cardiac: Irregular, tachycardic, no rubs/murmurs/gallops
   Abd: Soft, NT, ND, +BS
   Extr: Warm, no edema, dried blood over hands. No cyanosis or clubbing.
   Radial/PT/DP 2+ bilaterally.
   Neuro: Alert, oriented to person, place, month. Tangential discussion,
   but fluent speech. Moving all extremities without difficulty.
   Psych: Slightly agitated, tangential speech.
   Labs / Radiology
   141 K/uL
   9.0 g/dL
   109 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.8 mEq/L
   21 mg/dL
   110 mEq/L
   137 mEq/L
   25.0 %
   6.9 K/uL
        [image002.jpg]
                             [**2197-4-18**]  02:16 PM
                             [**2197-4-18**]  07:36 PM
                             [**2197-4-19**]  02:49 AM
   WBC
   6.4
   6.9
   Hct
   24.0
   22.0
   25.0
   Plt
   140
   141
   Cr
   0.8
   0.7
   Glucose
   99
   109
   Other labs: PT / PTT / INR:13.3/27.6/1.1, ALT / AST:17/23, Alk Phos / T
   Bili:35/0.8, Differential-Neuts:73.5 %, Lymph:15.6 %, Mono:7.1 %,
   Eos:3.5 %, Albumin:2.5 g/dL, LDH:127 IU/L, Ca++:7.5 mg/dL, Mg++:1.6
   mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   Patient is a 62 year old male with past medical history of atrial
   fibrillation, alcohol abuse, hypertension, and osteoarthritis, who has
   been transfered from [**Hospital3 **] for further management of a GI
   bleed.
   .
   #) GI Bleed: At this time appears to be secondary to small bowel source
   as identified on tagged scan at [**Hospital3 4627**], although could also be
   lower GI source as colonoscopy was obscurred by blood. Differential
   includes duodenal ulcer, Meckel's diverticulum, occult malignancy
   (proximal colon), AVM among other possibilities.
   - Maintain IV access
 will get another 16g, and take out cordis
   - Will discuss with GI, surgery, and IR best course of management.
   - Will likely pursue  tagged RBC scan.
   - change to IV BID ppi
   - moniter hct q8
   .
   #) Atrial fibrillation: Patient has a history of atrial fibrillation
   for several years. He has not been anticoagulated for a number of years
   due to alcohol abuse and fall risk. Should not currently be
   anti-coagulated due to bleeding. At home takes atenolol, holding at
   present given mild hypotension at OSH.
   - d/c amiodarone
   - Holding ASA, other anticoagulation.
   - metoprol as needed
   .
   #) Alcohol withdrawal: Patient has been in hospital since [**2197-4-13**], no
   report of alcohol withdrawal symptoms from OSH.
   - CIWA, valium PRN scores >10
   - Folate, thiamine
   - Aggressive electrolyte repletion, monitoring
   #) Hypertension: Holding antihypertensives in setting of on-going GIB
   and question of borderline systolic over last day(s).
   - Holding anti-hypertensives today.
   .
   #) History of B12 anemia: Per sign-out from [**Hospital3 4627**], baseline
   HCT is in low 30's.
   - Continue B12 supplementation, transfusion for acute bleeding.
   #) Fevers, leukocytosis: Noted at OSH, will need to follow up final
   urine and blood cultures from [**Hospital3 4627**].
   - Monitor WBC, fever trend, culture should she spike
   #) Tobacco abuse: Nicotine patches.
   .
   #) FEN: NPO at this time given on-going bleeding, if remains NPO for
   extended period, will need to discuss other nutritional support.
   - Aggressive electrolyte repletion given history of alcohol use, atrial
   fibrillation, risk of further electrolyte derrangements and
   arrhythmias.
   - IVF for tachycardia, to compensate losses, low urine output.
   - checking ionized Ca
   .
   #) Prophylaxis:
   - Pneumoboots
   - No need for VAP
   #) Code: Full
   #) Emergency Contact: [**Name (NI) **] would not provide any family or friend
   contacts in event of emergency.
   #) Dispo: ICU level of care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2197-4-18**] 02:10 PM
   Cordis/Introducer - [**2197-4-18**] 02:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Critical Care
   Present for the key portions of the resident
s history and exam. Agree
   substantially with assessment and plan.  Angio last night
 no bleeding
   site identified.  Received 2U PRBC and hct unchanged with no further
   signs of bleeding.  Remains hemodynamically stable in atrial
   fibrillation with HR in reasonable range ~90.
   Abd soft with active BS
 no tenderness
   Hct 26
   We will:
   Remove Cordis (from OSH)
   Monitor hct q6h
 bleeding has been obvious suggesting source in
   terminal ileum or R colon
   d/c amiodarone
 control HR with beta blocker if necessary
   Repeat angio if he bleeds again
   Social Service to see
   Time spent 40 min
   Critically ill
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 56**] [**Last Name (NamePattern1) 37**], MD
   on:[**2197-4-19**] 14:59 ------

2197-04-20 07:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Patient is a 62 year old male with past medical
   history of atrial fibrillation, alcohol abuse, hypertension, and
   osteoarthritis, who has been transfered from [**Hospital3 **] for
   further management of a GI bleed.
   24 Hour Events:
   - GI wants colonoscopy, will do in AM
   - cordis taken out, pt has 16g, 18g, and 20g now
   - Hct stable 28.2 -> 25.2
   - d/c'd amio
   Allergies:
   No Known Drug Allergies
   Other ICU medications:
   Pantoprazole (Protonix) - [**2197-4-19**] 07:39 PM
   Diazepam (Valium) - [**2197-4-20**] 12:45 AM
   Flowsheet Data as of  [**2197-4-20**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.4
C (97.5
   HR: 119 (84 - 119) bpm
   BP: 96/70(75) {90/48(64) - 126/98(104)} mmHg
   RR: 18 (14 - 28) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,648 mL
                                                                     72 mL
   PO:
             TF:
   IVF:
                                                                  1,446 mL
                                                                     72 mL
   Blood products:
                                                                    202 mL
   Total out:
                                                                  3,385 mL
                                                                    640 mL
   Urine:
                                                                  3,385 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,737 mL
                                                                   -568 mL
   Physical Examination
   General: NAD, coughing
   HEENT: Pale conjunctiva, no scleral icterus. Slightly dry MM. Poor
   dentition. No oral lesions noted.
   Neck: Supple. Flat JVP.
   Lungs: Clear, no wheezes/rhonchi/rales.
   Cardiac: Irregular, tachycardic, no rubs/murmurs/gallops
   Abd: Soft, NT, ND, +BS
   Extr: Warm, no edema, dried blood over hands. No cyanosis or clubbing.
   Radial/PT/DP 2+ bilaterally.
   Neuro: Alert, oriented to person, place, month. Tangential discussion,
   but fluent speech. Moving all extremities without difficulty.
   Psych: Slightly agitated, tangential speech.
   Labs / Radiology
   205 K/uL
   8.5 g/dL
   94 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.5 mEq/L
   10 mg/dL
   109 mEq/L
   140 mEq/L
   24.1 %
   6.2 K/uL
        [image002.jpg]
                             [**2197-4-18**]  02:16 PM
                             [**2197-4-18**]  07:36 PM
                             [**2197-4-19**]  02:49 AM
                             [**2197-4-19**]  09:12 AM
                             [**2197-4-19**]  03:16 PM
                             [**2197-4-19**]  10:44 PM
                             [**2197-4-20**]  03:58 AM
   WBC
   6.4
   6.9
   6.2
   Hct
   24.0
   22.0
   25.0
   26.4
   28.2
   25.2
   24.1
   Plt
   140
   141
   205
   Cr
   0.8
   0.7
   0.7
   Glucose
   99
   109
   94
   Other labs: PT / PTT / INR:13.3/27.6/1.1, ALT / AST:17/23, Alk Phos / T
   Bili:35/0.8, Differential-Neuts:73.5 %, Lymph:15.6 %, Mono:7.1 %,
   Eos:3.5 %, Albumin:2.5 g/dL, LDH:127 IU/L, Ca++:7.3 mg/dL, Mg++:1.6
   mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   Patient is a 62 year old male with past medical history of atrial
   fibrillation, alcohol abuse, hypertension, and osteoarthritis, who has
   been transfered from [**Hospital3 **] for further management of a GI
   bleed.
   .
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB): At this time appears
   to be secondary to small bowel source as identified on tagged scan at
   [**Hospital3 4627**], although could also be lower GI source as colonoscopy
   was obscurred by blood. Differential includes duodenal ulcer, Meckel's
   diverticulum, occult malignancy (proximal colon), AVM among other
   possibilities.
   - Maintain IV access
 will get another 16g, and take out cordis
   - Will discuss with GI, surgery, and IR best course of management.
   - Will likely pursue  tagged RBC scan.
   - change to IV BID ppi
   - moniter hct q8
   .
 ATRIAL FIBRILLATION (AFIB): Patient has a history of atrial
   fibrillation for several years. He has not been anticoagulated for a
   number of years due to alcohol abuse and fall risk. Should not
   currently be anti-coagulated due to bleeding. At home takes atenolol,
   holding at present given mild hypotension at OSH.
   - d/c amiodarone
   - Holding ASA, other anticoagulation.
   - metoprol as needed
   .
   #
 .H/O ALCOHOL ABUSE: Patient has been in hospital since [**2197-4-13**], no
   report of alcohol withdrawal symptoms from OSH.
   - CIWA, valium PRN scores >10
   - Folate, thiamine
   - Aggressive electrolyte repletion, monitoring
   #) Hypertension: Holding antihypertensives in setting of on-going GIB
   and question of borderline systolic over last day(s).
   - Holding anti-hypertensives today.
   .
   #) History of B12 anemia: Per sign-out from [**Hospital3 4627**], baseline
   HCT is in low 30's.
   - Continue B12 supplementation, transfusion for acute bleeding.
   #) Fevers, leukocytosis: Noted at OSH, will need to follow up final
   urine and blood cultures from [**Hospital3 4627**].
   - Monitor WBC, fever trend, culture should she spike
   #) Tobacco abuse: Nicotine patches.
   .
   #) FEN: NPO at this time given on-going bleeding, if remains NPO for
   extended period, will need to discuss other nutritional support.
   - Aggressive electrolyte repletion given history of alcohol use, atrial
   fibrillation, risk of further electrolyte derrangements and
   arrhythmias.
   - IVF for tachycardia, to compensate losses, low urine output.
   - checking ionized Ca
   ICU Care
   Nutrition: NPO
   Glycemic Control:  ISS
   Lines:
   18 Gauge - [**2197-4-18**] 02:10 PM
   16 Gauge - [**2197-4-19**] 03:55 PM
   20 Gauge - [**2197-4-19**] 08:58 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   Communication:  none
   Code status: FULL
   Disposition:
                         1. Thiamine 100 mg IV DAILY
   6. Ipratropium Bromide Neb 1 NEB IH Q6H:PRN
   2. Dextromethorphan-Guaifenesin (Sugar Free) prn
   7. Nicotine Patch 21 mg TD DAILY
   3. Diazepam 5 mg IV Q2H: PRN CIWA>10
   8. Pantoprazole 40 mg IV Q12H
   4. DiphenhydrAMINE 12.5 mg IV Q6H:PRN Itching
   9. Golytely 4 L PO ASDIR
   5. FoLIC Acid 1 mg IV Q24H